US04775692
Anhydrous diisopropylamine (11.5 g, 0.114 mol) was dissolved in anhydrous THF (50 ml) under argon atmosphere. To the mixture stirred at -20° C. was added dropwise n-butyl lithium (1.62N, 70 ml, 0.114 mol) over 30 minutes, then a solution of isobutyric acid (5.0 g, 0.057 mol) in anhydrous THF (10 ml) was added dropwise over 30 minutes, and further a solution of ethyl bromide (6.2 g, 0.057 mol) in anhydrous THF (10 ml) was also added dropwise over one hour. Aqueous hydrogen chloride (6N) was added to adjust pH to 2 near 0° C. The reaction mixture was extracted with ethyl acetate (50 ml×2). The ethyl acetate layers were washed with water (20 ml×1) and with brine (20 ml×1), dried over anhydrous sodium sulfate and concentrated. The residue was dissolved in ether (30 ml) and an excess of an ethereal solution of diazomethane was added. Distillation under an atmospheric pressure gave 2,2-dimethyl-butanoic acid methyl ester (5.3 g, 0.046 mol, yield 80.2%, b.p.=115°-120° C.) as a colorless clear liquid. The structure was identified by the following data.

reactant | diisopropylamine | 0.114 mol, 11.5 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 0.114 mol, 1.62N, 70 ml | C(CCC)[Li]
reactant | isobutyric acid | 0.057 mol, 5.0 g | C(C(C)C)(=O)O | C4H8O2
reactant | ethyl bromide | 0.057 mol, 6.2 g | C(C)Br | C2H5Br
reactant | hydrogen chloride | 6N | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2,2-dimethyl-butanoic acid methyl ester | 0.046 mol, 5.3 g, yield 80.2% | COC(C(CC)(C)C)=O | C7H14O2
